US07968581B2
Step 6: 4-[2,5-Dioxo-4-hydroxymethyl-3-methyl-4-(3-trifluoromethylphenyl)imidazolidin-1-yl]-2-trifluoromethyl-benzonitrile
To a solution of 782 mg of 4-[4-(3-Trifluoromethylphenyl)-2,5-dioxo-3-methyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile in DCM (5 mL), 662 μL of trifluoroborane-dimethylsulfide complex are added. The mixture is stirred 6 hours at room temperature, diluted with DCM, washed with an aqueous solution of sodium bicarbonate, dried over magnesium sulfate, concentrated and purified on silica gel (ethyl acetate/cyclohexane 0/100 to 50/50) to give the desired compound.

reactant | 4-[4-(3-Trifluoromethylphenyl)-2,5-dioxo-3-methyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | 782 mg | FC(C=1C=C(C=CC1)C1(N(C(N(C1=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O)C)COCC=C)(F)F | C23H17F6N3O3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-[2,5-Dioxo-4-hydroxymethyl-3-methyl-4-(3-trifluoromethylphenyl)imidazolidin-1-yl]-2-trifluoromethyl-benzonitrile | O=C1N(C(C(N1C)(C1=CC(=CC=C1)C(F)(F)F)CO)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C20H13F6N3O3
